US06794395B1
1-acetyl-5,6-dimethoxy-2-indolinone
16.0 g of 5,6-dimethoxy-2-indolinone (according to Hahn; Tulus; Chem. Ber. 74, 500 (1941)) are dissolved in 170 ml of acetic anhydride and stirred for more than 3 hours at 130° C. After cooling the residue is filtered off, washed with ether and dried in vacuo at 100° C.

reactant | 5,6-dimethoxy-2-indolinone | 16.0 g | COC=1C=C2CC(NC2=CC1OC)=O | C10H11NO3
reactant | acetic anhydride | 170 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(CC2=CC(=C(C=C12)OC)OC)=O | C12H13NO4
